US05808062
4-Hydroxy-3-[2-naphthalenyl(phenylthio)methyl]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), 2-naphthaldehyde (0.912 g, 5.84 mmol), thiophenol (1.40 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 98°-101° C.; 1H NMR (400 MHz, DMSO-d6) δ 5.96 (s, 1 H), 6.73 (s, 1 H), 7.18 (t, 1 H), 7.36 (m, 4 H), 7.52 (m, 5 H), 7.88 (m, 3 H), 8.07 (s, 1 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | 2-naphthaldehyde | 5.84 mmol, 0.912 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | thiophenol | 13.8 mmol, 1.40 mL | C1(=CC=CC=C1)S | C6H6S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[2-naphthalenyl(phenylthio)methyl]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(SC1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1 | C28H20O3S
